US09399640B2
Step 2. 4-Methyl-6-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one
This compound was synthesized according to the procedure of Example 10, Step 5, using 6-bromo-4-methyl-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one and 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one as the starting materials. LCMS calculated for C30H26N3O6S (M+H)+: m/z=556.2. found: 556.0.

reactant | 6-bromo-4-methyl-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one | BrC=1C=CC2=C(N(C(CO2)=O)C)C1OC1=CC=CC=C1 | C15H12BrNO3
reactant | 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)=O | C21H25BN2O5S
product | 4-Methyl-6-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one | CN1C(COC2=C1C(=C(C=C2)C=2C1=C(C(N(C2)C)=O)N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)OC1=CC=CC=C1)=O | C30H25N3O6S
